US08293923B2
Step 1: Ethyl 4-fluoro-3-nitrobenzoate
4-Fluoro-3-nitrobenzoic acid (5.3 g, 0.029 mol), ethanol (15 mL, 0.26 mol), toluene (40 mL, 0.4 mol) and sulfuric acid (1.75 mL, 0.0328 mol) were added to a 100 mL round-bottomed flask fitted with a Dean Stark trap and reflux condenser. The reaction mixture was heated with stirring under nitrogen to reflux and maintained at reflux for 5 hours. The reaction mixture was concentrated to about half volume diluted with ethyl acetate. The organic layer was washed with saturated sodium bicarbonate, water and dried over sodium sulfate. Concentration yielded a straw colored oil (5.68 g, 93%), which was used in the next step without further purification.

reactant | 4-Fluoro-3-nitrobenzoic acid | 0.029 mol, 5.3 g | FC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | ethanol | 0.26 mol, 15 mL | C(C)O | C2H6O
reactant | toluene | 0.4 mol, 40 mL | C1(=CC=CC=C1)C | C7H8
reactant | sulfuric acid | 0.0328 mol, 1.75 mL | S(O)(O)(=O)=O | H2O4S
product | Ethyl 4-fluoro-3-nitrobenzoate | 5.68 g, 93% | FC1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-] | C9H8FNO4
